US07608631B2
Preparation of 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-4H-[1,2,4]oxadiazol-5-one
90 mg of chloroformic acid ethyl ester in 1 ml of acetone are added dropwise at 5° C. to 400 mg of 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine and 127 mg of potassium carbonate in 3 ml of acetone. After 3 hours at 0-5° C., the reaction mixture is poured onto water and extracted with dichloromethane. Concentration of the organic phase and purification over silica gel yield the title compound (compound 1.15).

reactant | chloroformic acid ethyl ester | 90 mg | C(C)OC(=O)Cl | C3H5ClO2
reactant | 4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-N-hydroxy-benzamidine | ClC1=C(OCCCOC2=CC=C(C(=N)NO)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C19H18Cl4N2O4
reactant | potassium carbonate | 127 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-4H-[1,2,4]oxadiazol-5-one | ClC1=C(OCCCOC2=CC=C(C=C2)C2=NOC(N2)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C20H16Cl4N2O5
